US09145407B2
A solution of 1.0 M potassium hydroxide in water (65 mL, 65 mmol) was added to 5-chloro-2-fluoro-4-[4-fluoro-2-pyridazin-4-yl-5-(trifluoromethyl)phenoxy]-N-1,3-thiazol-4-ylbenzenesulfonamide bis(trifluoroacetate) (2.37 g, 3.05 mmol). The mixture was stirred at ambient temperature. Diethyl ether was added and the layers separated. The aqueous layer was acidified to pH 4 with 10 wt % citric acid in water. A precipitate developed so the mixture was sonicated then stirred for 45 minutes at ambient temperature. The aqueous layer was extracted with ethyl acetate (4×50 mL). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, treated with charcoal, filtered through diatomaceous earth, and concentrated in vacuo. The residue was taken up in acetone and ether and concentrated in vacuo to give 5-chloro-2-fluoro-4-[4-fluoro-2-pyridazin-4-yl-5-(trifluoromethyl)phenoxy]-N-1,3-thiazol-4-ylbenzenesulfonamide as a solid which was used without further purification.

reactant | potassium hydroxide | 1.0 M | [OH-].[K+]
reactant | water | 65 mmol, 65 mL | O | H2O
reactant | 5-chloro-2-fluoro-4-[4-fluoro-2-pyridazin-4-yl-5-(trifluoromethyl)phenoxy]-N-1,3-thiazol-4-ylbenzenesulfonamide bis(trifluoroacetate) | 3.05 mmol, 2.37 g | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.ClC=1C(=CC(=C(C1)S(=O)(=O)NC=1N=CSC1)F)OC1=C(C=C(C(=C1)C(F)(F)F)F)C1=CN=NC=C1
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 5-chloro-2-fluoro-4-[4-fluoro-2-pyridazin-4-yl-5-(trifluoromethyl)phenoxy]-N-1,3-thiazol-4-ylbenzenesulfonamide | ClC=1C(=CC(=C(C1)S(=O)(=O)NC=1N=CSC1)F)OC1=C(C=C(C(=C1)C(F)(F)F)F)C1=CN=NC=C1 | C20H10ClF5N4O3S2
